US06265575B1
Part B. (±)-4-[[trans-2-(Diethylamino)cyclohexyl]oxy]phenyl 6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone
The title compound was prepared in 67% yield by essentially following the procedures outlined in Example 72, Part E, from 4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone (Example 59, Part A) and (±)-trans-2-(diethylamino)cyclohexanol (Part A).

reactant | 4-fluorophenyl 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)F)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C28H26FNO3S
reactant | (±)-trans-2-(diethylamino)cyclohexanol | C(C)N([C@H]1[C@@H](CCCC1)O)CC | C10H21NO
product | (±)-4-[[trans-2-(Diethylamino)cyclohexyl]oxy]phenyl 6-Methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone | 67% yield | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CCCC2)N(CC)CC)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C38H46N2O4S
